US04269750
57.6 g of trimellitic acid anhydride;
380 g of a terephthalic acid polyester of 1.0 mol of terephthalic acid, 0.38 mol of glycerol and 0.72 mol of glycol containing approximately 6.0% by weight of hydroxyl groups and catalytic quantities of lead acetate and butyl titanate are then introduced one after another and stirred homogeneously into the reaction mixture. After condensation for one hour at 170° C., 2 hours at 200° C. and 2 hours at 220° C.,

reactant | terephthalic acid | 1.0 mol | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | glycerol | 0.38 mol | OCC(O)CO | C3H8O3
reactant | lead acetate | C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
catalyst | butyl titanate | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | trimellitic acid anhydride | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
